* Sky130 VCO Block Netlist with Fixed Testbench

.lib /opt/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /opt/pdk/sky130B/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

* ==============================================================================
* SUB-CIRCUIT DEFINITIONS
* ==============================================================================

.subckt cs_inv in out Vp Vn VDD GND
* Subcircuit for the Current-Starved Inverter Cell
* Top Charging Control (PMOS Header)
X_M1 net_p Vp VDD VDD sky130_fd_pr__pfet_01v8 w=0.72 l=0.18

* Switching Inverter Stage
X_M2 out in net_p VDD sky130_fd_pr__pfet_01v8 w=0.72 l=0.18
X_M3 out in net_n GND sky130_fd_pr__nfet_01v8 w=0.36 l=0.18

* Bottom Discharging Control (NMOS Footer)
X_M4 net_n Vn GND GND sky130_fd_pr__nfet_01v8 w=0.36 l=0.18
.ends cs_inv

.subckt vco vctrl OSC VDD GND
* 1. Voltage-to-Current Control Bias Stage
R1 vctrl Vn 1
X_M1 Vp Vn GND GND sky130_fd_pr__nfet_01v8 w=0.36 l=0.18
X_M2 Vp Vp VDD Vp sky130_fd_pr__pfet_01v8 w=1.8 l=0.18

* 2. 7-Stage Ring Oscillator Core
X_x1 n1 n2 Vp Vn VDD GND cs_inv
X_x2 n2 n3 Vp Vn VDD GND cs_inv
X_x3 n3 n4 Vp Vn VDD GND cs_inv
X_x5 n4 n5 Vp Vn VDD GND cs_inv
X_x6 n5 n6 Vp Vn VDD GND cs_inv
X_x7 n6 n7 Vp Vn VDD GND cs_inv
X_x4 n7 n1 Vp Vn VDD GND cs_inv

* 3. Output Buffer Inverter Stage
X_M4 OSC n1 VDD VDD sky130_fd_pr__pfet_01v8 w=0.72 l=0.18
X_M3 OSC n1 GND GND sky130_fd_pr__nfet_01v8 w=0.36 l=0.18
.ends vco

* ==============================================================================
* TESTBENCH ENVIRONMENT
* ==============================================================================

* Global Power Supplies (0 is the native ngspice ground node)
V_VDD VDD 0 DC 1.8

* Device Under Tut (DUT) Instance (Mapping subcircuit GND pin directly to node 0)
X_DUT vctrl OSC VDD 0 vco

* Control Voltage Input Source
V_VCTRL vctrl 0 DC 0.7V

* Initial Conditions to kickstart oscillation in the ring
.ic v(X_DUT.n1)=0 v(X_DUT.n2)=1.8 v(X_DUT.n3)=0

* ==============================================================================
* SIMULATION CONTROL & ANALYSIS
* ==============================================================================

* ==============================================================================
* SIMULATION CONTROL & ANALYSIS WITH FREQUENCY VERIFICATION
* ==============================================================================

* ==============================================================================
* SIMULATION CONTROL & ANALYSIS WITH FIXED MEASUREMENT EDGES
* ==============================================================================

.control
* --- RUN 1: Vctrl = 0.7V ---
echo "--- Running VCO Simulation at Vctrl = 0.7V ---"
tran 1ns 5.5us

* Measure early cycles (3rd to 4th edge) to ensure it falls within the 5.5us window
meas tran t1_0p7 trig v(OSC) val=0.9 rise=3 targ v(OSC) val=0.9 rise=4

* Calculate the frequency for 0.7V
let freq_0p7 = 1 / t1_0p7
echo "Frequency at Vctrl = 0.7V is:"
print freq_0p7

plot v(OSC) title "VCO Output (OSC) at Vctrl = 0.7V"
write vco_test_0p7V.raw v(OSC) v(vctrl)


* --- RUN 2: Vctrl = 0.8V ---
echo "--- Running VCO Simulation at Vctrl = 0.8V ---"
alter v_vctrl = 0.8V
tran 1ns 5.5us

* Measure using the exact same edge indices for a direct comparison
meas tran t1_0p8 trig v(OSC) val=0.9 rise=3 targ v(OSC) val=0.9 rise=4

* Calculate the frequency for 0.8V
let freq_0p8 = 1 / t1_0p8
echo "Frequency at Vctrl = 0.8V is:"
print freq_0p8

plot v(OSC) title "VCO Output (OSC) at Vctrl = 0.8V"
write vco_test_0p8V.raw v(OSC) v(vctrl)


* --- VERIFICATION SUMMARY ---
echo "=========================================================="
echo "Verification Summary:"
print freq_0p7 freq_0p8
echo "=========================================================="

.endc
.end